US03960845
Trimethylchlorosilane(0.32 ml) and triethylamine (0.14 ml) were added to a solution of 7-dichloroacetamido-3-(1-methyl-1H-tetrazole-5-yl)thiomethyl-3-cephem-4-carboxylic acid(374 mg) in chloroform(10 ml) and the reaction mixture was stirred at 5 - 7°C. for 1.5 hours to give 7-chloroacetamido-3-(1-methyl-1H-tetrazole-5-yl) thiomethyl-3-cephem-4-carboxylic acid trimethylsilyl ester. The resulting solution was added to a mixture of phosphorus pentachloride(176 mg), quinoline(0.12 ml) and chloroform(15 ml) at -50°C. The reaction mixture was stirred at -50°C for 3 hours and diluted with tetrahyrofuran(20 ml), which was cooled to -78°C. To this solution was added a methanol solution of lithium methoxide prepared from lithium(140 mg) and methanol (15 ml) at -78°C. The mixture was stirred at -78°C. for 30 minutes and treated with acetic acid(1.2 ml). The solution was poured into water and extracted with chloroform. The chloroform solution was washed with water, dried (Na2SO4) and evaporated to give a residue. The aqueous layer in the extraction of chloroform was again extracted with ethyl acetate. The extracts were washed with water, dried (Na2SO4) and the solvent was removed by distillation under reduced pressure to afford a residue. The residual fractions obtained above were combined and dissolved in a small amount of chloroform, to which was added excess hexane to precipitate the desired product. This precipitation process was repeated three times to give 200 mg of pure 7β-(2'-chloro-1'-methoxyethylidenimino)-7α-methoxy-3-(1-methyl-1H- tetrazole-5-yl)thiomethyl-3-cephem-4-carboxylic acid. NMR(CDCl3) δ ppm: 3.38 and 3.56(2H, AB-quartet, J=19 Hz), 3.46(3H, singlet), 3.78(3H, singlet), 3.82(3H, singlet), 4.20 and 4.55(2H, AB-quartet, J=12 Hz), 4.47(2H, singlet), 5.07(1H, singlet).

reactant | Trimethylchlorosilane | 0.32 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
reactant | 7-dichloroacetamido-3-(1-methyl-1H-tetrazole-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 374 mg | ClC(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)Cl | C12H12Cl2N6O4S2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 7-chloroacetamido-3-(1-methyl-1H-tetrazole-5-yl) thiomethyl-3-cephem-4-carboxylic acid trimethylsilyl ester | C[Si](C)(C)OC(=O)C1=C(CS[C@H]2N1C(C2NC(CCl)=O)=O)CSC2=NN=NN2C | C15H21ClN6O4S2Si
